US08227615B2
Step d: tert-Butyl 3-(2-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-5-methylpyridin-4-yl)benzoate
1-(2,2-Difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid (144 mg, 0.593 mmol) was placed in an oven-dried flask under nitrogen. Thionyl chloride (1 mL) and N,N-dimethylformamide (0.1 mL) were added and the solution was allowed to stir for 30 minutes at room temperature. The excess thionyl chloride was removed under vacuum and the resulting solid was suspended in 2 mL of anhydrous dichloromethane. This solution was then slowly added to a solution of tert-butyl 3-(2-amino-5-methylpyridin-4-yl)benzoate (129 mg, 0.454 mmol) in 5 mL of anhydrous dichloromethane containing triethylamine (0.165 mL, 1.19 mmol). The resulting mixture was allowed to stir for 15 hours at room temperature. The crude product was evaporated to dryness and then purified on 12 g of silica gel utilizing a gradient of 0-40% ethyl acetate in hexanes to yield the pure product as a yellow solid (162 mg, 0.319 mmol, 70.3%). ESI-MS m/z calc. 508.2, found; 509.1 (M+1)+ Retention time 2.22 minutes. 1H NMR (400 MHz, DMSO-d6) δ 8.85 (s, 1H), 8.18 (s, 1H), 7.98-7.96 (m, 1H), 7.89 (s, 1H), 7.82 (d, J=1.6 Hz, 1H), 7.64-7.62 (m, 2H), 7.57 (d, J=1.6 Hz, 1H), 7.42 (d, J=8.3 Hz, 1H), 7.34 (dd, J=1.7, 8.3 Hz, 1H), 2.14 (s, 3H), 1.55 (s, 9H), 1.51-1.49 (m, 2H) 1.19-1.15 (m, 2H).

reactant | 1-(2,2-Difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid | 0.593 mmol, 144 mg | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)O)F | C11H8F2O4
reactant | Thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | tert-butyl 3-(2-amino-5-methylpyridin-4-yl)benzoate | 0.454 mmol, 129 mg | NC1=NC=C(C(=C1)C=1C=C(C(=O)OC(C)(C)C)C=CC1)C | C17H20N2O2
reactant | triethylamine | 1.19 mmol, 0.165 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 3-(2-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-5-methylpyridin-4-yl)benzoate | 0.319 mmol, 162 mg, 70.3% | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C(=C2)C=2C=C(C(=O)OC(C)(C)C)C=CC2)C)F | C28H26F2N2O5
